US07579140B2
6.1 Preparation of 1-(5-carboxypentyl)-5-methoxy-2,3,3-trimethyl-3H-indolium bromide
To 5-methoxy-2,3,3-trimethyl-3H-indole (1.9 g) was added 6-bromohexanoic acid (3 g) and 1,2-dichlorobenzene (10 ml). The mixture was heated to 100° C. for 3 hours and then allowed to cool to room temperature. Diethyl ether was added and the precipitated material removed by filtration. Drying in a vacuum oven gave the product (3.12 g).

reactant | 5-methoxy-2,3,3-trimethyl-3H-indole | 1.9 g | COC=1C=C2C(C(=NC2=CC1)C)(C)C | C12H15NO
reactant | 6-bromohexanoic acid | 3 g | BrCCCCCC(=O)O | C6H11BrO2
reactant | 1,2-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 1-(5-carboxypentyl)-5-methoxy-2,3,3-trimethyl-3H-indolium bromide | 3.12 g | [Br-].C(=O)(O)CCCCC[N+]1=C(C(C2=CC(=CC=C12)OC)(C)C)C | InChI=1S/C18H25NO3.BrH/c1-13-18(2,3)15-12-14(22-4)9-10-16(15)19(13)11-7-5-6-8-17(20)21;/h9-10,12H,5-8,11H2,1-4H3;1H
